US09376422B2
Step 3: Synthesis of methyl 5-chloro-2-methoxy-3-[(oxan-4-yl)amino]benzoate
To a solution of methyl 3-amino-5-chloro-2-methoxybenzoate (440 mg, 2 mmol) in 1,2-dichloroethane (8 ml) at temperature under nitrogen was added oxan-4-one (0.38 ml, 4.0 mmol) followed by acetic acid (0.7 ml, 12 mmol). This solution was stirred for 5 minutes before the addition of sodium triacetoxyborohydride (1.3 g, 6.1 mmol) at room temperature. After stirring for 23 hours deionized water (16 ml) was added and the mixture was neutralized with solid NaHCO3. The phases were separated and the aqueous layer was extracted with EtOAc (2×16 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by FCC (10 g silica, Isolute cartridge, gradient of eluents; 9:1 Heptane:EtOAc to 7:3 Heptane:EtOAc) to give 439 mg (72%) of the title compound as a white solid. LC-MS 97%, m/z=300.3/302.0, 1H NMR (500 MHz, Chloroform-d) δ ppm 7.06 (1H, d, J=2.52 Hz), 6.73 (1H, d, J=2.52 Hz), 4.38-4.45 (1H, m), 4.02 (2H, dt, J=11.78, 3.49 Hz), 3.91 (3H, s), 3.81 (3H, s), 3.54 (2H, td, J=11.47, 2.13 Hz), 3.40-3.50 (1H, m), 2.03 (2H, br. d, J=13.70 Hz), 1.48-1.55 (2H, m).

reactant | methyl 3-amino-5-chloro-2-methoxybenzoate | 2 mmol, 440 mg | NC=1C(=C(C(=O)OC)C=C(C1)Cl)OC | C9H10ClNO3
reactant | oxan-4-one | 4.0 mmol, 0.38 ml | O1CCC(CC1)=O | C5H8O2
reactant | acetic acid | 12 mmol, 0.7 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 6.1 mmol, 1.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 8 ml | ClCCCl | C2H4Cl2
solvent | water | 16 ml | O | H2O
product | methyl 5-chloro-2-methoxy-3-[(oxan-4-yl)amino]benzoate | 439 mg, 72% | ClC=1C=C(C(=C(C(=O)OC)C1)OC)NC1CCOCC1 | C14H18ClNO4
